US04057551
10.0 g (28.5 mmoles) of 1-ethyl-2,3,4,6,7,12-hexahydro-indolo(2,3-a)quinolizinium perchlorate are dissolved in 100 ml. of dichloromethane, and 75 ml. of distilled water and 20 ml. of a 2 n aqueous sodium hydroxide solution are added to the stirred soltion under argon atmosphere. The reaction mixture is stirred for 10 minutes, thereafter the separated organic phase is isolated and dried over anhydrous potassium carbonate. The drying agent is filtered off, 10 ml. of freshly distilled acrylonitrile are added to the filtrate, the mixture is flushed with argon, and it is allowed to stand at room temperature. The colour of the mixture turns deeper. After 2 days of standing the mixture is evaporated in vacuo at a bath temperature of maximum 40° to 50° C under argon atmosphere, and the dark red, oily residue is triturated with 5 ml. of methanol. The obtained orange red crystals, weighing 8.10 g., are filtered off, and recrystallized from 15-fold volume of methanol. 7.30 g. (79.4%) of (1-ethyl-1,2,3,4,6,7-hexahydro-12H-indolo[2,3-a]quinolizin-1-yl)-propionitrile are obtained: m.p.: 122°-123° C.

reactant | 1-ethyl-2,3,4,6,7,12-hexahydro-indolo(2,3-a)quinolizinium perchlorate | 28.5 mmoles, 10.0 g | Cl(=O)(=O)(=O)[O-].C(C)C1CCC[N+]=2CCC3=C(C12)NC1=CC=CC=C13
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | (1-ethyl-1,2,3,4,6,7-hexahydro-12H-indolo[2,3-a]quinolizin-1-yl)-propionitrile | 79.4% | C(C)C1(CCCN2CCC3=C(C12)NC1=CC=CC=C13)C(C#N)C | C20H25N3
